US07662828B2
Trifluoroacetic acid 4.0 ml (54 mmol) was added to a solution of 2-(3-chloro-benzoylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester 307 mg (0.789 mmol) in CH2Cl2 (8 ml) under nitrogen as inert gas and stirring was performed for 2 h at RT. After removal of the solvent, the intermediate (3-chloro-N-(5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-benzamide trifluoroacetate) was dissolved in CH2Cl2 (10 ml) and DIPEA 380 μl and 2-methylbenzoic acid 118 mg (0.868 mmol) were added. After cooling the reaction mixture to 0° C., EDCI 166 mg (0.868 mmol) and HOAt 16 mg (0.12 mmol) were added. The reaction mixture was stirred for 1 h at 0° C. and then overnight at RT. After removal of the solvent, purification was performed by means of column chromatography and the product 3-chloro-N-[6-(2-methyl-benzoyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl]-benzamide 260 mg (0.64 mmol, 81% of theoretical) was obtained.

reactant | Trifluoroacetic acid | 54 mmol, 4.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(3-chloro-benzoylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | 0.789 mmol, 307 mg | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)NC(C2=CC(=CC=C2)Cl)=O)CC1 | C19H21ClN4O3
reactant | DIPEA | 380 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-methylbenzoic acid | 0.868 mmol, 118 mg | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | EDCI | 0.868 mmol, 166 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 0.12 mmol, 16 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-N-[6-(2-methyl-benzoyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl]-benzamide | 0.64 mmol, 260 mg, 81% | ClC=1C=C(C(=O)NC=2N=CC3=C(N2)CCN(C3)C(C3=C(C=CC=C3)C)=O)C=CC1 | C22H19ClN4O2
